US09034880B2
Preparation of 5-(2-(1,2,3,4-tetrahydro-8-(hydroxymethyl)-2-methylpyrido[4,3-b]indol-5-yl)ethyl)pyridine-2-carboxylic acid (Compound 466)
The title compound is prepared from a mixture of (2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indol-8-yl)methanol, 5-vinylpyridine-2-carboxylic acid and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | (2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indol-8-yl)methanol | CN1CC2=C(NC=3C=CC(=CC23)CO)CC1 | C13H16N2O
reactant | 5-vinylpyridine-2-carboxylic acid | C(=C)C=1C=CC(=NC1)C(=O)O | C8H7NO2
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 5-(2-(1,2,3,4-tetrahydro-8-(hydroxymethyl)-2-methylpyrido[4,3-b]indol-5-yl)ethyl)pyridine-2-carboxylic acid | OCC1=CC=2C3=C(N(C2C=C1)CCC=1C=CC(=NC1)C(=O)O)CCN(C3)C | C21H23N3O3
